US07179823B1
A mixture of [1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]methanol (2.82 g), activated manganese dioxide (6.00 g), and tetrahydrofuran (50 ml) was stirred at room temperature for 2 hours. After the manganese dioxide was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazole-4-carbaldehyde (2.63 g, yield: 94%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | [1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]methanol | 2.82 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=CC(=C2)CO)C=C1 | C22H21N3O3
catalyst | manganese dioxide | 6.00 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazole-4-carbaldehyde | 2.63 g, yield: 94% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=CC(=C2)C=O)C=C1 | C22H19N3O3
